US06506754B1
Preparation of 6-(Bromomethyl)-1H-indazole Hydrogen Bromide (5)
A suspension of 1-acetyl-6-(acetoxymethyl)indazole (9.5 g, 41 mmol) (4) in aqueous hydrobromic acid (48% aqueous solution, 20 mL, 177 mmol) was stirred at room temperature for 46 hours. The solid was collected on a Buchner funnel and dried under vacuum for 12 hours. The filtrate was stirred at room temperature for additional 24 hours and more solid was collected. After drying under vacuum, title compound was obtained as a yellow solid (10.0 g, 84%) which was used as such without further purification. MS (electrospray) 211 (M+1 for 79Br), 213 (M+1 for 81Br); 1H N MR (CDCl3) δ 4.85 (s, 2H), 7.65 (d, 1H, J=8.4 Hz), 7.78 (d, 1H, J=8.4 Hz), 8.05 (s, 1H), 8.10 (s, 1H).

reactant | 1-acetyl-6-(acetoxymethyl)indazole | 41 mmol, 9.5 g | C(C)(=O)N1N=CC2=CC=C(C=C12)COC(C)=O | C12H12N2O3
reactant | hydrobromic acid | 177 mmol, 20 mL | Br | BrH
product | 6-(Bromomethyl)-1H-indazole Hydrogen Bromide | Br.BrCC1=CC=C2C=NNC2=C1 | InChI=1S/C8H7BrN2.BrH/c9-4-6-1-2-7-5-10-11-8(7)3-6;/h1-3,5H,4H2,(H,10,11);1H
